US07576062B2
At 0° C. N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (379 mg, 1.98 mmol) was added to a solution of (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)-propionic acid (651 mg, 1.98 mmol) and 1-hydroxy-7-azabenzotriazole (269 mg, 1.98 mmol) in dichloromethane (10 ml) and N,N-dimethylformamide (5 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of (2R)-1-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-methylamino-3-phenylpropan-1-one (600 mg, 1.98 mmol) in dichloromethane (10 ml) and ethyldiisopropylamine (0.51 ml, 2.97 mmol) were added successively. The reaction mixture was stirred for 3 days, while it was warming up to room temperature. Ethyl acetate (100 ml) was added. The solution was washed with a saturated aqueous solution of sodium hydrogen carbonate (100 ml). The aqueous phase was extracted with ethyl acetate (3×50 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 1.18 g of N-((1R)-1-{N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.98 mmol, 379 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)-propionic acid | 1.98 mmol, 651 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 1.98 mmol, 269 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2R)-1-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-methylamino-3-phenylpropan-1-one | 1.98 mmol, 600 mg | CN(C)C[C@H]1CN(CCC1)C([C@@H](CC1=CC=CC=C1)NC)=O | C18H29N3O
reactant | ethyldiisopropylamine | 2.97 mmol, 0.51 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-((1R)-1-{N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 1.18 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)N1C[C@@H](CCC1)CN(C)C)CC1=CC=CC=C1)=O)=O | C37H50N4O4
